US04118500
In the same manner as indicated in Example 6 there are electrolyzed 8.5 g of N-acetylpiperidine and 49.7 g of n-butanol in the presence of 0.3 g of tetramethylammonium tetrafluoroborate as conducting salt. After throughput of 2.5 Faraday per mol of N-acetylpiperidine the current is switched off. The calculated mean cell voltage is 91 volts. Work-up of the electrolysis solution gives 7.6 g of 1-acetyl-2-n-butoxypiperidine (boiling point 70° C./0.1 mbar; nD25 = 1.4656), which corresponds to a product yield of 56.8% and a current efficiency of 45.5%.

reactant | N-acetylpiperidine | 8.5 g | C(C)(=O)N1CCCCC1 | C7H13NO
reactant | n-butanol | 49.7 g | C(CCC)O | C4H10O
catalyst | tetramethylammonium tetrafluoroborate | 0.3 g | F[B-](F)(F)F.C[N+](C)(C)C
product | 1-acetyl-2-n-butoxypiperidine | 7.6 g | C(C)(=O)N1C(CCCC1)OCCCC | C11H21NO2
